US09428511B2
A solution of (3S,4S)-benzyl 3-amino-4-(fluoromethyl)pyrrolidine-1-carboxylate, TFA (468 mg, 1.278 mmol) and 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide (352 mg, 1.278 mmol), DIEA (1116 μl, 6.39 mmol) in DMA (5110 μl) was heated at 80° C. for 7 hrs. The reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate solution was washed with saturated NaCl, dried with sodium sulfate, filtered, and concentrated to yield a brown oil. The crude product was purified by flash column (ISCO 12 g, 0-100% EtOAc/hexane) to afford (3S,4S)-benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate (615.6 mg, 1.253 mmol, 98% yield) as a faint yellow solid. ESI-MS (analytical LCMS Method B): m/z 493.2 ([M+H]+). HPLC (analytical HPLC Method B) Rt: 3.148 min.

reactant | (3S,4S)-benzyl 3-amino-4-(fluoromethyl)pyrrolidine-1-carboxylate | N[C@@H]1CN(C[C@@H]1CF)C(=O)OCC1=CC=CC=C1 | C13H17FN2O2
reactant | TFA | 1.278 mmol, 468 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide | 1.278 mmol, 352 mg | BrC=1N=C2N(N=CC(=C2Cl)C(=O)N)C1 | C7H4BrClN4O
reactant | DIEA | 6.39 mmol, 1116 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 5110 μl | CC(=O)N(C)C | C4H9NO
product | (3S,4S)-benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate | 1.253 mmol, 615.6 mg, 98% yield | BrC=1N=C2N(N=CC(=C2N[C@@H]2CN(C[C@@H]2CF)C(=O)OCC2=CC=CC=C2)C(N)=O)C1 | C20H20BrFN6O3
